US08232271B2
step 1—To a solution of 3-methoxy-4-tert-butylbenzoic acid (1.0 eq, 48.02 mmol, 10.00 g and NaOAc (2.0 eq, 96.03 mmol, 7.88 g) in HOAc (75 mL) at RT was added dropwise Br2 (2.0 eq, 96.03 mmol, 4.94 mL). The resulting mixture was heated at 50° C. for 24 h, cooled to RT and poured into a mixture of ice-water. The slightly orange-colored solid was collected by suction filtration, washed with water, dried in the oven at 40° C. to afford 12.87 g of 6-bromo-4-tert-butyl-3-methoxybenzoic acid the product (118).

reactant | 3-methoxy-4-tert-butylbenzoic acid | COC=1C=C(C(=O)O)C=CC1C(C)(C)C | C12H16O3
reactant | NaOAc | 96.03 mmol, 7.88 g, 2.0 eq | CC(=O)[O-].[Na+]
reactant | Br2 | 96.03 mmol, 4.94 mL, 2.0 eq | BrBr | Br2
solvent | HOAc | 75 mL | CC(=O)O | C2H4O2
product | 6-bromo-4-tert-butyl-3-methoxybenzoic acid | 12.87 g | BrC1=CC(=C(C=C1C(=O)O)OC)C(C)(C)C | C12H15BrO3
